US07595425B2
Preparation of (4-methoxyphenyl)phenylmethanone
Anisole (540 μl, 4.9 mmol) and benzoic acid anhydride (0.2733 g, 1.21 mmol) were mixed with 1,3-diethylimidazolium trifluoromethanesulfonate (1.4634 g, 5.34 mmol) at 80° C. during 2 h as in the previous examples. After the work-up 253.4 mg of the title compound were obtained. Yield: 34% (calculated by GC with internal standard). Selectivity orto/para: 0/100.

reactant | Anisole | 4.9 mmol, 540 μl | C1(=CC=CC=C1)OC | C7H8O
reactant | benzoic acid anhydride | 1.21 mmol, 0.2733 g | C(C1=CC=CC=C1)(=O)OC(C1=CC=CC=C1)=O | C14H10O3
reactant | 1,3-diethylimidazolium trifluoromethanesulfonate | 5.34 mmol, 1.4634 g | FC(S(=O)(=O)[O-])(F)F.C(C)[N+]1=CN(C=C1)CC
product | (4-methoxyphenyl)phenylmethanone | 253.4 mg, Yield: 34% | COC1=CC=C(C=C1)C(=O)C1=CC=CC=C1 | C14H12O2
